### PR TITLE
[Merged by Bors] - feat: Group presentations of isomorphic types are isomorphic.

### PR DESCRIPTION
**Pull request by newell**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 1]
```diff
@@ -27,13 +27,14 @@ given by generators `x : α` and relations `r ∈ rels`.
...
 
+open FreeGroup Subgroup
 
 variable {α : Type*}
 
 /-- Given a set of relations, `rels`, over a type `α`, `PresentedGroup` constructs the group with
 generators `x : α` and relations `rels` as a quotient of `FreeGroup α`. -/
 def PresentedGroup (rels : Set (FreeGroup α)) :=
-  FreeGroup α ⧸ Subgroup.normalClosure rels
+  FreeGroup α ⧸ normalClosure rels
```
Comment (kmill) [inline Mathlib/GroupTheory/PresentedGroup.lean:37]: For a `feat` PR, it's better practice to not mix refactoring into it, unless you can find some reviewer who thinks it's immediately a good idea and is OK with the distraction of interleaved non-feature changes.

I'm not sure removing `Subgroup.` and `FreeGroup.` is an improvement myself, but I don't know that it's not an improvement either. If you limit the PR to just adding `equivPresentedGroup` you'll have a better shot at getting it quickly reviewed.

Comment (newell) [reply Mathlib/GroupTheory/PresentedGroup.lean:37]: @kmill Understood.  I will revert the last commit.

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 2]
```diff
@@ -94,6 +94,14 @@ theorem ext {φ ψ : PresentedGroup rels →* G} (hx : ∀ (x : α), φ (.of x)
   ext
   apply hx
 
+/-- Presented groups of isomorphic types are isomorphic. -/
+def equivPresentedGroup {β : Type*} (e : α ≃ β) :
+    PresentedGroup rels ≃* PresentedGroup ((FreeGroup.freeGroupCongr e) '' rels) :=
+  QuotientGroup.congr (Subgroup.normalClosure rels)
+    (Subgroup.normalClosure ((FreeGroup.freeGroupCongr e)'' rels)) (FreeGroup.freeGroupCongr e)
+    (Subgroup.map_normalClosure rels (FreeGroup.freeGroupCongr e).toMonoidHom
+      (FreeGroup.freeGroupCongr e).surjective)
```
Comment (kmill) [inline Mathlib/GroupTheory/PresentedGroup.lean:103]: I think you want `rels` to be an explicit argument to `equivPresentedGroup`, right? That way you can write `equivPresentedGroup rels e` and specify `rels`.

Definitions should generally come with some minimal API that characterizes them. The main one I can think of is `equivPresentedGroup_apply_of` (if I got the name right). That would be something like `equivPresentedGroup rels e (PresentedGroup.of x) = PresentedGroup.of (e x)`. You could also throw in `equivPresentedGroup_symm_apply_of` for `(equivPresentedGroup rels e).symm (PresentedGroup.of x) = PresentedGroup.of (e.symm x)`, and you probably can deduce it from the previous one.

File: Mathlib/GroupTheory/PresentedGroup.lean [hunk 3]
```diff
@@ -94,6 +94,27 @@ theorem ext {φ ψ : PresentedGroup rels →* G} (hx : ∀ (x : α), φ (.of x)
...
+theorem equivPresentedGroup_apply_of (x : α) (rels : Set (FreeGroup α)) (e : α ≃ β) :
+    equivPresentedGroup rels e (PresentedGroup.of x) =
+    PresentedGroup.of (rels := (FreeGroup.freeGroupCongr e) '' rels) (e x) := by
+  rfl
+
+theorem equivPresentedGroup_symm_apply_of (x : α) (rels : Set (FreeGroup α)) (e : α ≃ β) :
+    (equivPresentedGroup rels e).symm
+      (PresentedGroup.of (rels := ((FreeGroup.freeGroupCongr e) '' rels)) (e x)) =
+    PresentedGroup.of (rels := rels) (e.symm (e x)) := by
+  rfl
```
Comment (kmill) [inline Mathlib/GroupTheory/PresentedGroup.lean:116]: I'm surprised these `rels` hints are needed. We can remove a couple of them to tidy it up. In any case, for the second theorem we want the `e.symm (e x)` to be simplified to `x`. We can also make it more general when rewriting left-to-right by having it be in terms of `(x : β)`. Here:
```suggestion
theorem equivPresentedGroup_apply_of (x : α) (rels : Set (FreeGroup α)) (e : α ≃ β) :
    equivPresentedGroup rels e (PresentedGroup.of x) =
      PresentedGroup.of (rels := FreeGroup.freeGroupCongr e '' rels) (e x) := by
  rfl

theorem equivPresentedGroup_symm_apply_of (x : β) (rels : Set (FreeGroup α)) (e : α ≃ β) :
    (equivPresentedGroup rels e).symm (PresentedGroup.of x) =
      PresentedGroup.of (rels := rels) (e.symm x) := by
  rw [MulEquiv.symm_apply_eq, equivPresentedGroup_apply_of, Equiv.apply_symm_apply]
```

Comment (kmill) [reply Mathlib/GroupTheory/PresentedGroup.lean:116]: I just edited that. Turns out the second one is true by `rfl` rather than a more involved `rw` proof.

By the way, making the proof by `rfl` instead of `by rfl` makes it available to `dsimp`.

**Comment by kmill** [comment]
Looks good, thanks!

bors r+

**Comment by kmill** [comment]
I'm going to assume that was a random transient failure and try again.

bors r+

**Comment by Parcly-Taxel** [comment]
> I'm going to assume that was a random transient failure and try again.

There are uncaught exceptions:
https://github.com/leanprover-community/mathlib4/actions/runs/7524334618/job/20478989708#step:17:4161

**Comment by kmill** [comment]
Still, it might be intermittent, so I'll try once more as a test.

bors r+

**Comment by kmill** [comment]
It was worth a shot. Meanwhile, Mario found that the source of the error is `curl` exiting with a nonzero status code.

**Comment by Parcly-Taxel** [comment]
@kmill you may now merge master and re-merge this.
